Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Shellfish Derived
 
Attending: ___.
 
Chief Complaint:
 Elective admit for TACE
 
Major Surgical or Invasive Procedure:
s/p elective chemoembolization of hepatic mass ___

 
History of Present Illness:
___ with a history of HBV cirrhosis complicated by development 
of ___ who was electively admitted for TACE today. His R femoral 
artery was punctured but unfortunately his hepatic artery was 
not able to be accessed. His arterial sheath was pulled at 3pm 
and he was sent to the floor for further management. 
.
On the floor he was seen with his wife. He denies any pain, 
tingling in his leg, ___ edema or numbness or any other 
complaints. The interview was limited by a significant language 
barrier. 
.  
Review of Systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies chest pain or tightness, palpitations. Denies 
cough, shortness of breath, or wheezes. Denies nausea, vomiting, 
diarrhea, constipation or abdominal pain. No recent change in 
bowel or bladder habits. No dysuria. Denies arthralgias or 
myalgias. Denies rashes or skin breakdown. No numbness/tingling 
in extremities. No feelings of depression or anxiety. All other 
review of systems negative. 
 
Past Medical History:
Past Oncologic History:
- HCC: History of hepatitis B and was found to have a right 
hepatic lobe tumor in ___, when he presented to his 
primary care physician while living in ___ at that time for a 
routine check up.  He was found to have abnormal liver function 
tests, which prompted a liver ultrasound, revealing the tumor. 
On ___, when he was seen in your clinic, he did have a CT 
scan of the torso, which confirmed the presence of a large 
ill-defined heterogeneous enhancing mass within the entire 
posterior segment of the right hepatic lobe with portal vein 
thrombosis with probable tumor thrombus within the portal vein.  
There was complete occlusion of the right portal vein, but the 
left portal vein was patent.  There was no evidence of any
metastatic disease at the time of that imaging study.  He 
therefore went for surgery on ___ and he had a right 
hepatic lobectomy with cholecystectomy and intraoperative 
ultrasound.  The  intraoperative ultrasound revealed no lesions 
in the left lobe of the liver. The pathology from that tumor 
resection revealed hepatocellular carcinoma within the mass of 
the right lobe of the liver.  The tumor was 11 cm in greatest 
dimension.  There were numerous smaller nodules besides the 
dominant mass.  The primary tumor was deemed to be a T3 lesion.  
There were two lymph nodes examined and they were uninvolved by 
tumor.  The margins were uninvolved by invasive carcinoma.  
There was, however, extensive large
vessel invasion present.
.
Treatment history:
- Unsuccessful TACE due to inbility to access the hepatic artery
.
Other Past Medical History:  
- HTN
- HBV cirrhosis
 
Social History:
___
Family History:
Father died at age ___ of natural causes, mother died in her ___ 
of HBV, sister died at age ___ of cancer, unknown. Younger 
brother has hepatitis
 
Physical Exam:
Physical Exam:  
GEN:  NAD
VS:  96.7  116/80  47  18  97% on RA
HEENT:  Dry MM, no OP lesions, no cervical, supraclavicular, or 
axillary LAD
CV:  RR, bradycardic, NL S1S2 no S3S4 MRG
PULM:  CTAB anteriorly
ABD:  BS+, soft, NTND, no masses or HSM
LIMBS:  Pulses 2+ bilaterally at the radial, femoral, and DP 
arteries, no bruits of the R femoral puncture site, no hematoma
SKIN:  No rashes or skin breakdown
NEURO:  Grossly nonfocal
 
Pertinent Results:
ADMISSION LABS:
___ 07:35AM BLOOD WBC-6.2 RBC-4.85 Hgb-14.9 Hct-43.6 MCV-90 
MCH-30.7 MCHC-34.1 RDW-13.9 Plt ___
___ 07:35AM BLOOD ___ PTT-30.8 ___
___ 07:35AM BLOOD UreaN-12 Creat-0.9 K-4.0
___ 07:35AM BLOOD AST-44* AlkPhos-88 TotBili-0.6
___ 07:35AM BLOOD Albumin-4.2 Calcium-9.1
___ 07:35AM BLOOD AFP-2.5

DISCHARGE LABS:

___ 05:45AM BLOOD WBC-5.5 RBC-4.15* Hgb-12.6* Hct-36.6* 
MCV-88 MCH-30.3 MCHC-34.4 RDW-13.3 Plt ___
___ 05:45AM BLOOD Plt ___
___ 05:45AM BLOOD Glucose-100 UreaN-11 Creat-0.8 Na-141 
K-3.3 Cl-103 HCO3-32 AnGap-9
___ 05:45AM BLOOD ALT-124* AST-92* LD(LDH)-262* AlkPhos-84 
TotBili-0.7
___ 05:45AM BLOOD Albumin-3.4* Calcium-8.6 Phos-3.7 Mg-2.1

RADIOLOGY PROCEDURE REPORT on ___:
FINDINGS:
1. SMA arteriography demonstrates a patent portal vein.
2. Aside from expected findings after right hepatic lobectomy, 
there is
conventional arterial anatomy, with the common and left hepatic 
artery arising
from the celiac axis.
3. Celiac angiography demonstrates six to seven focal 
hyper-enhancing nodules
within segments II/III. There is a smaller arterial enhancing 
nodule within
segment ___.
4. Markedly tortuous anatomy of the target branch feeding 
segments II/III,
which encompasses the majority of the arterial enhancing nodules 
seen.
 
IMPRESSION: Unsuccessful subselective chemoembolization of the 
dominant
tertiary left hepatic artery branch supplying ___ arterial 
enhancing tumor
nodules within Segments II/III due to difficult arterial 
anatomy. The patient
will return in 1 week for a repeat procedure. 

CXRAY ON ___:
FINDINGS: As compared to the previous radiograph, there is a 
substantial
improvement with complete resolution of the pre-existing right 
pleural
effusion. The transparency of the lung parenchyma is 
unremarkable, no
evidence of focal parenchymal opacities suggesting pneumonia, no 
pulmonary
nodules. Normal size of the cardiac silhouette, mild tortuosity 
of the
thoracic aorta. 
 
Brief Hospital Course:
___ with a history of HBV cirrhosis complicated by ___ admitted 
for elective TACE which was unfortunately technically limited. 
He is otherwise well. 
.
# ___: S/p attempt at TACE, but the hepatic artery was not 
accessible. Procedure had no complications. Post catheter check 
was WNL. He is moving without difficulty and the site has small 
drsg that C/D/I, no femeral bruit, +2 pulses of bil ___. Post 
cath hydration with 150 mEq Sodium Bicarbonate/ 1000 mL D5W, 
continuous at 150 ml/hr for 1000 ml. Electrolytes and creatine 
WNL this AM
- Continue home Tenofovir Disoproxil (Viread) 300 mg PO DAILY  
.
# HTN: Well controlled.
- Conitnue home Triamterene-Hydrochlorothiazide 1 CAP PO DAILY  
.
# FEN: Regular diet tolerating well, replete electrolytes PRN
# PPx: Pain control with tylenol, bowel regimen, DVT PPx with 
heparin SQ  
# Comm: With patient  and wife
 
___ on ___:
TENOFOVIR DISOPROXIL FUMARATE [VIREAD] - 300 mg Tablet - 1
Tablet(s) by mouth daily
TRIAMTERENE-HYDROCHLOROTHIAZID -  (Prescribed by Other Provider)
- 37.5 mg-25 mg Tablet - 1 Tablet(s) by mouth once a day
 
Discharge Medications:
1. Tenofovir Disoproxil Fumarate 300 mg Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
2. Triamterene-Hydrochlorothiazid 37.5-25 mg Capsule Sig: One 
(1) Cap PO DAILY (Daily).  
3. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  
4. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) as needed for constipation.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: 
s/p unsuccessful elective chemoembolization of hepatic mass 

 
Discharge Condition:
Mental Status:Clear and coherent
Level of Consciousness:Alert and interactive
Activity Status:Ambulatory - Independent

 
Discharge Instructions:
You were admitted to the ___ for chemoembolization of your 
liver mass. Unfortunately, the your liver artery was not able to 
be access. You tolerated the procedure well and had no 
complications.

It is okay to remove your right groin dressing tomorrow. You 
should not lift more than 10lbs for 1 next week.

We have made no changes to your medications. You should take 
stool softners,  such as colace and senna 1 tablet twice daily 
if needed for constipation. You will need to follow-up with your 
oncologist as listed below. 
 
Followup Instructions:
___